US06034096
A solution of 6-(diethylaminocarbonyl)-2- naphthalenecarboxylic acid (18 g, 66 mmol) in THF (200 ml) was slowly added to a refluxing suspension of lithium aluminium hydride (7.5 g, 199 mmol) in THF (500 ml). The mixture was refluxed for an hour, then cooled at room temperature and treated with a mixture of THF (25 ml) and water (3.5 ml), with 20% sodium hydroxide (8.5 ml) and finally with water (33 ml). The white solid was filtered off and the solvent was removed under reduced pressure. Crude was dissolved in diethyl ether (200 ml) and extracted with 1N HCl (3×100 ml). The aqueous solution was treated with 32% sodium hydroxide and extracted with diethyl ether (3×100 ml). The organic solution was dried over anhydrous sodium sulphate and the solvent was removed under reduced pressure yielding 12.7 g (79% yield) of pure 6-(diethylaminomethyl)-2-naphthalenemethanol as thick oil.

reactant | 6-(diethylaminocarbonyl)-2- naphthalenecarboxylic acid | 66 mmol, 18 g | C(C)N(C(=O)C=1C=C2C=CC(=CC2=CC1)C(=O)O)CC | C16H17NO3
reactant | lithium aluminium hydride | 199 mmol, 7.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 3.5 ml | O | H2O
reactant | sodium hydroxide | 8.5 ml | [OH-].[Na+]
reactant | water | 33 ml | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 6-(diethylaminomethyl)-2-naphthalenemethanol | 12.7 g, 79% yield | C(C)N(CC)CC=1C=C2C=CC(=CC2=CC1)CO | C16H21NO
